US04636501
Preparation of N-(2-((2-hydroxy-3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)propyl)amino)ethyl-N'-methyl urea
10.6 g of 3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)-1,2-epoxypropane and 14 g of N-2-aminoethyl-N'-methyl-urea was refluxed 40 h in isopropanol. The product crystallized when the heating was stopped. Recrystallized from isopropanol. Yield 8 g. M.p. 121° C. (base). The structure was determined using NMR.

reactant | 3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)-1,2-epoxypropane | 10.6 g | CC(COCCOC1=CC=C(OCC2CO2)C=C1)C | C15H22O4
reactant | N-2-aminoethyl-N'-methyl-urea | 14 g | NCCNC(=O)NC | C4H11N3O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-((2-hydroxy-3-(4-(2-(2-methylpropoxy)ethoxy)phenoxy)propyl)amino)ethyl-N'-methyl urea | OC(CNCCNC(=O)NC)COC1=CC=C(C=C1)OCCOCC(C)C | C19H33N3O5
